US04608383
1. N-(3-Phthalimidopropyl)-2,6-dimethylaniline
50 g. N-(3-Bromopropyl)-phthalimide and 50 g. 2,6-dimethylaniline are stirred for 5 hours at 100° C. After adding diethyl ether to the reaction mixture, it is filtered off with suction to give 69 g. of the hydrobromide (m.p. 226°-228° C.). The base is liberated from aqueous solution by adding a concentrated aqueous solution of ammonia. There are obtained 48 g. (83% of theory) of the desired product in the form of colorless crystals; m.p. 97°-98° C.

reactant | N-(3-Bromopropyl)-phthalimide | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 2,6-dimethylaniline | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | hydrobromide | Br | BrH
reactant | ammonia | N | H3N
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-(3-Phthalimidopropyl)-2,6-dimethylaniline | C1(C=2C(C(N1CCCNC1=C(C=CC=C1C)C)=O)=CC=CC2)=O | C19H20N2O2
